US03981930
In a 2-l. three-necked and round-bottomed flask were placed 220 g of 3,7,11-trimethyl-6,10-dien-1-in-3-ol, 1 g of copper acetate, 20.2 ml of pyridine and 440 ml of n-heptane. The mixture was stirred at temperatures of 60°~70°C for 5 hours by passing oxygen. The reaction mixture was washed with a 3N-H2SO4 -solution and then with a 10 % aqueous sodium chloride solution respectively three times and the n-heptane was distilled off to give 348 g of a crude product. A 100 g portion of this crude product was placed in a 500 ml autoclave and 200 ml of n-heptane, 1.8 g of nickel catalyst supported on diatomaceous earth which is roughly the same amount as that of nickel and 3.6 g of silica-alumina (alumina: 28~30 %) were added thereto. The mixture was subjected to hydrogenolysis at a temperature of 200°C under a hydrogen pressure of 100~20 kg/cm2 with stirring for 16 hours. After filtering off the catalyst and distilling off the n-heptane, the residue was distilled off at 202° - 208°C under reduced pressure of 0.3 - 0.4 mmHg to give 45.0 g of squalane.

reactant | pyridine | 20.2 ml | N1=CC=CC=C1 | C5H5N
reactant | oxygen | O=O | O2
catalyst | nickel | 1.8 g | [Ni] | Ni
catalyst | copper acetate | 1 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | n-heptane | 200 ml | CCCCCCC | C7H16
solvent | n-heptane | 440 ml | CCCCCCC | C7H16
product | squalane | 45.0 g | CC(C)CCCC(C)CCCC(C)CCCCC(C)CCCC(C)CCCC(C)C | C30H62
